US08471005B2
N-tert-Butyl-3-[2-(2-trifluoromethyl-3H-benzimidazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide
Following the synthetic and purification procedures described in Example 1293d, N-tert-butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (103 mg, 0.262 mmol) was coupled with 2-trifluoromethyl-3H-benzimidazol-5-ylamine (91 mg, 0.45 mmol) at 105° C. for 132 h to afford the title compound. Yield of TFA salt: 15 mg (26%) of brown powder; LC/MS: 529 (M+H); HPLC: 97% pure, RT=2.16 min; 1H NMR: (DMSO, δ) 9.68 (s, 1H), 9.07 (s, 1H), 8.53 (m, 2H), 8.02 (s, 1H), 7.86 (d, J=8.0, 1H), 7.83 (dd, J=9.1, 1.8, 1H), 7.75 (m, 3H), 7.25 (d, J=4.7, 1H), 7.03 (d, J=4.7, 1H), 1.12 (s, 9H)-benzimidazole NH presumably underwent rapid exchange with residual water.

reactant | N-tert-butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.262 mmol, 103 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C | C17H20N4O3S2
reactant | 2-trifluoromethyl-3H-benzimidazol-5-ylamine | 0.45 mmol, 91 mg | FC(C=1NC2=C(N1)C=CC(=C2)N)(F)F | C8H6F3N3
product | N-tert-Butyl-3-[2-(2-trifluoromethyl-3H-benzimidazol-5-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC1=C(N=C(N1)C(F)(F)F)C=C2 | C24H22F3N7O2S
